US04035178
A stirred mixture of 10.6 g of 1,2-epoxycyclohexanemethanol and 8 drops of concentrated sulfuric acid in 100 ml of p-dioxane and 100 ml of water was heated at 60°-70° for 18 hours. The reaction mixture was neutralized with sodium hydroxide, and evaporated under reduced pressure to a viscous residue. The residue was taken up in methanol and dried with sodium sulfate. The mixture was filtered and the filtrate evaporated under reduced pressure to a residue. The residue was distilled to give 10.8 g of 1,2-dihydroxycyclohexanemethanol; bp 170°-240°/0.02 mm. The nmr spectrum was consistent with the assigned structure.

reactant | 1,2-epoxycyclohexanemethanol | 10.6 g | O1C2(C1CCCC2)CO | C7H12O2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | sulfuric acid | 8 drops | S(O)(O)(=O)=O | H2O4S
solvent | p-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 1,2-dihydroxycyclohexanemethanol | 10.8 g | OC1(C(CCCC1)O)CO | C7H14O3
